US05736534
(7-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-6-methylsulfanyl-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 15% yield from 6-chloro-indoline and 4,7-dichloro-6-methylsulfanyl-quinazoline. (M.P. 167°-168° C.; LC-MS: 362 (MH+)).

reactant | 6-chloro-indoline | ClC1=CC=C2CCNC2=C1 | C8H8ClN
reactant | 4,7-dichloro-6-methylsulfanyl-quinazoline | ClC1=NC=NC2=CC(=C(C=C12)SC)Cl | C9H6Cl2N2S
product | 7-Chloro-4-(6-chloro-2,3-dihydro-indol-1-yl)-6-methylsulfanyl-quinazoline | 15% yield | ClC1=C(C=C2C(=NC=NC2=C1)N1CCC2=CC=C(C=C12)Cl)SC | C17H13Cl2N3S
